2178-08-28 18:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2178-8-28**] 05:10 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2178-8-28**] 05:05 PM
   Vancomycin - [**2178-8-28**] 06:13 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2178-8-28**] 05:19 AM
   Dextrose 50% - [**2178-8-28**] 05:20 AM
   Heparin Sodium (Prophylaxis) - [**2178-8-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-28**] 06:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.5
   HR: 92 (80 - 94) bpm
   BP: 116/61(79) {97/48(-2) - 116/61(79)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 19 (12 - 25)mmHg
   Total In:
                                                                  7,873 mL
   PO:
   TF:
   IVF:
                                                                  7,563 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                      0 mL
                                                                  2,735 mL
   Urine:
                                                                  1,055 mL
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
                                                                     80 mL
   Balance:
                                                                      0 mL
                                                                  5,138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   108 K/uL
   98 mg/dL
   6.8 mg/dL
   15 mEq/L
   5.2 mEq/L
   92 mg/dL
   108 mEq/L
   139 mEq/L
   25.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2178-8-28**]  03:25 AM
                             [**2178-8-28**]  03:38 AM
                             [**2178-8-28**]  01:51 PM
   WBC
   9.1
   Hct
   27.4
   25.7
   Plt
   108
   Cr
   7.7
   6.8
   TropT
   0.15
   Glucose
   124
   112
   98
   Other labs: PT / PTT / INR:17.5/37.9/1.6, CK / CKMB /
   Troponin-T:160/7/0.15, ALT / AST:23/47, Alk Phos / T Bili:181/2.8,
   Lactic Acid:3.2 mmol/L, Albumin:2.0 g/dL, Ca++:7.8 mg/dL, Mg++:2.7
   mg/dL, PO4:10.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-8-28**] 03:30 AM
   20 Gauge - [**2178-8-28**] 10:25 AM
   Multi Lumen - [**2178-8-28**] 10:26 AM
   Arterial Line - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2178-08-29 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    56yo woman with a h/o EtOH induced cirrhosis c/b variceal bleeds, HTN,
   DM type 2 here with ARF.
   She was hospitalized at [**Hospital1 19**]-[**Location (un) 250**] for anasarca and SOB. She
   underwent two paracenteses. Was found to have hyponatremia in the low
   130s. On [**8-13**] her creatinine was 1.3. [**8-21**] her creatinine was 3.9 at
   her PCP
[**Name Initial (PRE) **] office, this was thought to be [**12-22**] her having gotten new
   diuretics during her hospitalization. On [**8-27**] she returned with new
   falls, her sodium was 140, bicarb 14, BUN 130, creatinine 7.8. She was
   sent to the ER where her SBP was in the 70-90s and she was satting
   well. She received kayexalate, IVF (2L NS), insulin 10 units / D50, and
   bicarb for a K of 7.3. She was sent to our ED.
   Here she was noted to have SOB with a sat of 99% on 15L NC. She was
   becoming encephalopathic and a NG tube was placed. A diagnostic
   paracentesis was performed and was negative for SBP. Her K was 6.7. A
   foley was placed with ~200cc of urine. She was admitted to the medical
   floor, where on arrival she triggered for being obtunded (arousable
   only to sternal rub.) She was A&O x 1. Her SBP was as low at 70,
   improved to 100-110s with a small bolus. EKG without acute
   abnormalities. She received lactulose, rifaxamin, insulin / D50, and a
   bicarb gtt. ABG 7.5 / 22/ 146 /14. She was transferred to the MICU.
   Her potassium trend has been 6.0
 6.7
 5.8
 5.3 in our hospital with
   the aforementioned treatment. Her creatinine has been 1.3 ([**8-13**])
 3.5
   ([**8-21**])
 7.8 ([**8-27**])
 7.3 (6:45PM, [**8-27**])
 7.7 (3AM, [**8-28**]). In the MICU
   she has had good urine out-put.
   24 Hour Events:
 ULTRASOUND - At [**2178-8-28**] 09:00 AM
         -nodular liver, portal HTN. No focal lesions. Unable to assess
   renal arteries
 MULTI LUMEN - START [**2178-8-28**] 10:26 AM
 TRANSTHORACIC ECHO - At [**2178-8-28**] 04:47 PM- Normal LVEF, moderate
   pulm HTN with normal RV function.
 ARTERIAL LINE - START [**2178-8-28**] 05:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2178-8-28**] 05:05 PM
   Vancomycin - [**2178-8-28**] 06:13 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-29**] 12:00 AM
   Morphine Sulfate - [**2178-8-29**] 06:00 AM
   Other medications:
   Aluminum hydroxide
   Lactulose
   Sc heparin
   RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-29**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 88 (84 - 94) bpm
   BP: 103/55(70) {92/48(-2) - 116/61(79)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 100% on RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 18 (8 - 25)mmHg
   Total In:
                                                                  9,353 mL
                                                                  1,277 mL
   PO:
   TF:
   IVF:
                                                                  9,043 mL
                                                                  1,187 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,285 mL
                                                                    830 mL
   Urine:
                                                                  1,605 mL
                                                                    830 mL
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
                                                                     80 mL
   Balance:
                                                                  6,068 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.38/26/118/12/-7
   Physical Examination
   General:
   CV:
   Lungs:
   Abd:
   Extrem:
   Neuro:
   Labs / Radiology
   8.5 g/dL
   104 K/uL
   114 mg/dL
   6.3 mg/dL
   12 mEq/L
   5.1 mEq/L
   89 mg/dL
   111 mEq/L
   139 mEq/L
   25.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2178-8-28**]  03:25 AM
                             [**2178-8-28**]  03:38 AM
                             [**2178-8-28**]  01:51 PM
                             [**2178-8-28**]  05:59 PM
                             [**2178-8-28**]  08:47 PM
                            [**2178-8-29**]  03:28 AM
                            [**2178-8-29**]  04:15 AM
   WBC
   9.1
   8.9
   Hct
   27.4
   25.7
   24.6
   25.6
   Plt
   108
   104
   Cr
   7.7
   6.8
   6.3
   TropT
   0.15
   TCO2
   15
   16
   Glucose
   124
   112
   98
   114
   Other labs: PT / PTT / INR:17.7/43.7/1.6, CK / CKMB /
   Troponin-T:160/7/0.15, ALT / AST:23/49, Alk Phos / T Bili:158/3.3,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:302 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:9.1 mg/dL
   Assessment and Plan
   56yo woman with a h/o EtOH induced cirrhosis c/b variceal bleeds, HTN,
   DM type 2 here for ARFlikely [**12-22**] hypovolumia / ATN and/or HRS.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Suspect that this is [**12-22**] her new uremia, although her hepatic disease
   could be a contributor as well. She underwent a STAT head CT to assess
   for bleed in the setting of her recent falls, which was negative for
   anything acute.  More awake over last 24 hours, and oriented x 3 this
   morning.  Continue lactulose, and should improve with resolution of
   uremia.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)/ARF
   The etiology of her ARF is not entirely clear. Her sediment was
   reviewed by the Renal team and reportedly there were no muddy brown
   casts or findings c/w a glomerulonephritic process. ATN is a
   possibility, although the absence of muddy brown casts make that less
   likely as a primary cause of her ARF. Hepatorenal syndrome is a
   distinct possibility given her comorbid liver disease, although her
   FeNa is 24. Would provide albumin boluses this morning to further
   assess if she has any response to a further volume challenge. Now
   improving significantly, so will hold off on midodrine/octreotide for
   now.  UOP much improved, creat trending down.   Checking lytes [**Hospital1 7**]
 .H/O HYPOTENSION (NOT SHOCK)
   Her SBP has ranged in the 80-100s here, this is close to her
baseline.
 In the acute setting, we will hold her Nadolol and
   diuretics.  Responding to volume repletion, with BP stabilizing and UOP
   increasing, but still requiring low-dose levophed overnight.  Will try
   to wean levophed to off today, as long as her SBP remains above 90.
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   Rifaximin, lactulose, and follow Liver recs. Hold Lasix anad
   spironolactone. Abdominal U/S [**8-28**] showed portal HTN but no evidence of
   protal vein thrombosis. Paracentesis without e/o SBP. Negative EtOH
   level on admission.
   IINFECTIOUS DISEASE: One set blood cultures with gram positive cocci
   chains and pairs.  Cultures drawn on same day or before line placed, so
   not suspicious for line infection.  Sent surveillance cultures, and
   will continue antibiotics for now.   No SBP, no other infectious source
   identified.  If repeat cultures negative and BP remains stable will D/C
   antibiotics.
   ICU Care
   Nutrition: NPO until now.  Will start oral feed as tolerated, with tube
   feeds for extra nutritional support.
   Glycemic Control: RISS
   Lines:
   18 Gauge - [**2178-8-28**] 03:30 AM
   Multi Lumen - [**2178-8-28**] 10:26 AM
   Arterial Line - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  will start PPI today due to history of varices
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU.  [**Month (only) 51**] be ready for floor tomorrow if continues to
   diurese and mental status improving
   Total time spent:  30 minutes
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   fellow for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.  To that I would add the
   following:  mental status is improved today.  Will cont to try to wean
   of pressors.
   Pt is critically ill.  Time spent: 30 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2178-8-29**] 18:14 ------

2178-08-29 10:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -given 5L IVF for low JVP on ultrasound, temp dialysis with VIP port
   placed--->thought hypovolemic shock, urine output improved
   -start broad abx--->vanc/cef
   -put on levophed for BP support
   -aline placed
   -started alumninum hydroxide for phosphate
   -abd u/s done but did not perform dopplers
   -tee performed showed collapsing RV and LVOF obstruction
   -cxr also showed 9th rib fx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2178-8-28**] 05:05 PM
   Vancomycin - [**2178-8-28**] 06:13 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-8-29**] 12:00 AM
   Morphine Sulfate - [**2178-8-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-29**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 87 (84 - 94) bpm
   BP: 121/59(80) {92/48(-2) - 121/61(80)} mmHg
   RR: 16 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 18 (8 - 25)mmHg
   Total In:
                                                                  9,353 mL
                                                                  1,445 mL
   PO:
   TF:
   IVF:
                                                                  9,043 mL
                                                                  1,235 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,285 mL
                                                                  1,380 mL
   Urine:
                                                                  1,605 mL
                                                                  1,130 mL
   NG:
   Stool:
                                                                  1,600 mL
                                                                    250 mL
   Drains:
                                                                     80 mL
   Balance:
                                                                  6,068 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.38/26/118/12/-7
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: no wheeze/rales.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Oriented x3, knows president. Follows simple commands.
   Labs / Radiology
   104 K/uL
   8.5 g/dL
   114 mg/dL
   6.3 mg/dL
   12 mEq/L
   5.1 mEq/L
   89 mg/dL
   111 mEq/L
   139 mEq/L
   25.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2178-8-28**]  03:25 AM
                             [**2178-8-28**]  03:38 AM
                             [**2178-8-28**]  01:51 PM
                             [**2178-8-28**]  05:59 PM
                             [**2178-8-28**]  08:47 PM
                            [**2178-8-29**]  03:28 AM
                            [**2178-8-29**]  04:15 AM
   WBC
   9.1
   8.9
   Hct
   27.4
   25.7
   24.6
   25.6
   Plt
   108
   104
   Cr
   7.7
   6.8
   6.3
   TropT
   0.15
   TCO2
   15
   16
   Glucose
   124
   112
   98
   114
   Other labs: PT / PTT / INR:17.7/43.7/1.6, CK / CKMB /
   Troponin-T:160/7/0.15, ALT / AST:23/49, Alk Phos / T Bili:158/3.3,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:302 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:9.1 mg/dL
   Assessment and Plan
   EtOH cirrhosis, hepatic encephalopathy, shock
   Shock/Hypotension: On vasopressor support, unclear source
   - f/u surveillance cx
   - vanc/zosyn empirically
   - further resus with albumin
   ESRD:
   - supportive care for now, holding diuretics
   Hepatic Encephalopathy
   - on lactulose with good effect, now oriented x3 this morning
   Acute Renal Failure:
   - possibly HRS-II, cr trending down after fluid yesterday
   - f/u vanc trough, dosed by level
   Anion Gap Metabolic Acidosis
   - likely renal failure, lactate not appreciably elevated
   Hematuria
   - monitoring, likely [**12-22**] foley
   Diabetes
   - on RISS
   Alcoholism
   - vitamins
   - sw consult
   Nutrition
   - tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-8-28**] 03:30 AM
   Multi Lumen - [**2178-8-28**] 10:26 AM
   Arterial Line - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-30 07:02:00 Physician Resident Progress Note
24 Hour Events:
   - came off of levophed at 8 pm on [**8-29**]
   - vancomycin slow to clear, will redose today
   - Cr trending down without initiation of dialysis
   - PICC line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-28**] 06:13 PM
   Cefipime - [**2178-8-29**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-29**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-30**] 12:00 AM
   Morphine Sulfate - [**2178-8-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2178-8-30**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 93 (84 - 96) bpm
   BP: 105/55(70) {85/40(54) - 150/75(98)} mmHg
   RR: 8 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 96 kg
   Height: 66 Inch
    CVP: 16 (10 - 283)mmHg
   Total In:
                                                                  2,228 mL
                                                                    477 mL
   PO:
                                                                    120 mL
   TF:
                                                                    306 mL
                                                                    207 mL
   IVF:
                                                                  1,541 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                  2,015 mL
   Urine:
                                                                  2,680 mL
                                                                    395 mL
   NG:
   Stool:
                                                                  1,300 mL
                                                                  1,500 mL
   Drains:
                                                                    100 mL
                                                                    120 mL
   Balance:
                                                                 -1,852 mL
                                                                 -1,538 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.37/26/130/13/-8
   Physical Examination
   GEN: obese female
   HEENT: anicteric, PERRL, foaming at mouth, no cervical LAD
   CHEST: CTAB anteriorly, no w/r/r
   CV: RRR, nl S1, S2, no m/r/g
   ABD: distended, + fluid wave, NT, L peritoneal site draining ascitic
   fluid into bag
   EXT: 3+ pitting edema to knees, then 2+ pitting edema in thighs
   bilaterally
   NEURO: opens eyes to sternal rub and periodically with calling name.
   Internally rotates bilateral UE with fingernail pressure.
   DERM: no rashes, does not appear jaundiced
   Labs / Radiology
   83 K/uL
   8.2 g/dL
   128 mg/dL
   5.3 mg/dL
   13 mEq/L
   4.7 mEq/L
   80 mg/dL
   118 mEq/L
   145 mEq/L
   24.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2178-8-28**]  03:38 AM
                             [**2178-8-28**]  01:51 PM
                             [**2178-8-28**]  05:59 PM
                             [**2178-8-28**]  08:47 PM
                            [**2178-8-29**]  03:28 AM
                            [**2178-8-29**]  04:15 AM
                            [**2178-8-29**]  05:31 PM
                            [**2178-8-29**]  06:00 PM
                            [**2178-8-30**]  04:55 AM
                            [**2178-8-30**]  05:06 AM
   WBC
   8.9
   7.7
   Hct
   25.7
   24.6
   25.6
   24.6
   24.9
   Plt
   104
   83
   Cr
   6.8
   6.3
   5.6
   5.3
   TropT
   0.15
   TCO2
   15
   16
   16
   Glucose
   112
   98
   114
   171
   156
   128
   Other labs: PT / PTT / INR:18.0/44.8/1.6, CK / CKMB /
   Troponin-T:160/7/0.15, ALT / AST:21/46, Alk Phos / T Bili:189/2.1,
   Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:302 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:7.9 mg/dL
   [1][**2178-8-29**]
   BLOOD
   Blood Culture, Routine-PENDING
   [2][**2178-8-29**]
   BLOOD
   Blood Culture, Routine-PENDING
   [3][**2178-8-28**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   [4][**2178-8-28**]
   BLOOD
   Blood Culture, Routine-PRELIMINARY {GRAM POSITIVE COCCUS(COCCI)};
   Anaerobic Bottle Gram Stain-FINAL
   [5][**2178-8-28**]
   BLOOD
   Blood Culture, Routine-PENDING
   [6][**2178-8-28**]
   URINE
   URINE CULTURE-FINAL
   Assessment and Plan
   56 y.o. F with alcoholic cirrhosis c/b variceal bleed, EtOH abuse, HTN,
   & DM [**Hospital 10612**] transferred from [**Location (un) 250**] ED after presenting for SOB and found
   to be in acute renal failure.
   Shock/Hypotension: On vasopressor support, unclear source, ?
   hypovolemic given aggressive diuresis. No evidence of infection,
 BCx
   with gm positive cocci.
   - f/u surveillance cx
   - vanc/cefepime empirically
   - vanc x1 today given level
   - if need volume, consider albumin instead of NS
   ESRD: supportive care for now, holding diuretics
    - consider restarting diuretics tomorrow after further stabilization
   Hepatic Encephalopathy: on lactulose with good effect, now oriented x3
   this morning
   - decrease lactulose to TID
   Acute Renal Failure: possibly HRS-II, cr trending down after fluid
   yesterday
   - if need volume, consider albumin
   Anion Gap Metabolic Acidosis: likely renal failure, lactate not
   appreciably elevated
   Hematuria
   - monitoring, likely [**12-22**] foley
   Diabetes
   - on RISS
   Alcoholism
   - vitamins
   - sw consult
   Nutrition
   - tube feeds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-30**] 06:03 AM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-8-28**] 03:30 AM
   Multi Lumen - [**2178-8-28**] 10:26 AM
   Arterial Line - [**2178-8-28**] 05:17 PM
   PICC Line - [**2178-8-29**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, but possible c/o this afternoon
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2178-08-30 07:48:00 Physician Attending Progress Note
Chief Complaint: ARF, encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    56yo woman with a h/o EtOH induced cirrhosis c/b variceal bleeds, HTN,
   DM type 2 here with ARF.
   She was hospitalized at [**Hospital1 19**]-[**Location (un) 250**] for anasarca and SOB. She
   underwent two paracenteses. Was found to have hyponatremia in the low
   130s. On [**8-13**] her creatinine was 1.3. [**8-21**] her creatinine was 3.9 at
   her PCP
[**Name Initial (PRE) **] office, this was thought to be [**12-22**] her having gotten new
   diuretics during her hospitalization. On [**8-27**] she returned with new
   falls, her sodium was 140, bicarb 14, BUN 130, creatinine 7.8. She was
   sent to the ER where her SBP was in the 70-90s and she was satting
   well. She received kayexalate, IVF (2L NS), insulin 10 units / D50, and
   bicarb for a K of 7.3. She was sent to our ED.
   Here she was noted to have SOB with a sat of 99% on 15L NC. She was
   becoming encephalopathic and a NG tube was placed. A diagnostic
   paracentesis was performed and was negative for SBP. Her K was 6.7. A
   foley was placed with ~200cc of urine. She was admitted to the medical
   floor, where on arrival she triggered for being obtunded (arousable
   only to sternal rub.) She was A&O x 1. Her SBP was as low at 70,
   improved to 100-110s with a small bolus. EKG without acute
   abnormalities. She received lactulose, rifaxamin, insulin / D50, and a
   bicarb gtt. ABG 7.5 / 22/ 146 /14. She was transferred to the MICU.
   Renal function and electrolyte imbalance now improving.
   24 Hour Events:
 PICC LINE - START [**2178-8-29**] 02:00 PM
   -Off levophed since 8pm last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-28**] 06:13 PM
   Cefipime - [**2178-8-29**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-29**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-30**] 12:00 AM
   Morphine Sulfate - [**2178-8-30**] 12:00 AM
   Other medications:
   Lactulose, colace, sc heparin, RISS, rifaximin, MVI, folate, thiamine,
   aluminum hydroxide
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-30**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 95 (84 - 96) bpm
   BP: 106/54(69) {85/40(54) - 150/75(98)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 96 kg
   Height: 66 Inch
   CVP: 16 (10 - 283)mmHg
   Total In:
                                                                  2,228 mL
                                                                    512 mL
   PO:
                                                                    120 mL
   TF:
                                                                    306 mL
                                                                    234 mL
   IVF:
                                                                  1,541 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                  2,015 mL
   Urine:
                                                                  2,680 mL
                                                                    395 mL
   NG:
   Stool:
                                                                  1,300 mL
                                                                  1,500 mL
   Drains:
                                                                    100 mL
                                                                    120 mL
   Balance:
                                                                 -1,852 mL
                                                                 -1,503 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100% RA
   ABG: 7.37/26/130/13/-8
   Physical Examination
   General: NAD
   Neuro:alert, oriented x 3, no asterixis
   CV:RRR, no m/r/g
   Pulm: CTA bilat
   Abd: edematous, plus some ascites. Soft, NT
   Extrem:generalized edema/anasarca, slightly improved since yesterday
   Labs / Radiology
   8.2 g/dL
   83 K/uL
   128 mg/dL
   5.3 mg/dL
   13 mEq/L
   4.7 mEq/L
   80 mg/dL
   118 mEq/L
   145 mEq/L
   24.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2178-8-28**]  03:38 AM
                             [**2178-8-28**]  01:51 PM
                             [**2178-8-28**]  05:59 PM
                             [**2178-8-28**]  08:47 PM
                            [**2178-8-29**]  03:28 AM
                            [**2178-8-29**]  04:15 AM
                            [**2178-8-29**]  05:31 PM
                            [**2178-8-29**]  06:00 PM
                            [**2178-8-30**]  04:55 AM
                            [**2178-8-30**]  05:06 AM
   WBC
   8.9
   7.7
   Hct
   25.7
   24.6
   25.6
   24.6
   24.9
   Plt
   104
   83
   Cr
   6.8
   6.3
   5.6
   5.3
   TropT
   0.15
   TCO2
   15
   16
   16
   Glucose
   112
   98
   114
   171
   156
   128
   Micro: GPC
s on blood culture [**8-28**] (one bottle), repeat set pending
   Assessment and Plan
   56yo woman with a h/o EtOH induced cirrhosis c/b variceal bleeds, HTN,
   DM type 2 here for ARFlikely [**12-22**] hypovolumia / ATN and/or HRS.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Suspect that this is [**12-22**] her new uremia, although her hepatic disease
   could be a contributor as well. She underwent a STAT head CT to assess
   for bleed in the setting of her recent falls, which was negative for
   anything acute. Mental status much improved. Oriented x 3.  No
   asterixis today on exam.  Will decrease lastulose, titrate to bowel
   movements.
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)/ARF
   The etiology of her ARF is not entirely clear. Her sediment was
   reviewed by the Renal team and reportedly there were no muddy brown
   casts or findings c/w a glomerulonephritic process. ATN is a
   possibility, although the absence of muddy brown casts make that less
   likely as a primary cause of her ARF. Hepatorenal syndrome is a
   distinct possibility given her comorbid liver disease.  Her creatinine
   continues to improve, although somewhat slowly. High UOP,
   autodiuresing.  HD catheter still in, but will talk to renal to see if
   we can remove it.  Na slightly up today.  Will recheck at 5pm.
 .H/O HYPOTENSION (NOT SHOCK)
   Her SBP has ranged in the 80-100s here, this is close to her
baseline.
 In the acute setting, we will hold her Nadolol and
   diuretics.  Responding to volume repletion, with BP stabilizing and UOP
   increasing, but still requiring low-dose levophed overnight.  Will try
   to wean levophed to off today, as long as her SBP remains above 90.
 .H/O CIRRHOSIS OF LIVER, ALCOHOLIC
   Rifaximin, lactulose, and follow Liver recs. Hold Lasix anad
   spironolactone. Abdominal U/S [**8-28**] showed portal HTN but no evidence of
   protal vein thrombosis. Paracentesis without e/o SBP. Negative EtOH
   level on admission. Decreasing lactulose.  Too early to restart
   diuretics.
   IINFECTIOUS DISEASE: One set blood cultures with gram positive cocci
   chains and pairs.  Cultures drawn on same day or before line placed, so
   not suspicious for line infection.  Sent surveillance cultures, and
   will continue antibiotics for now.   No SBP, no other infectious source
   identified.  If repeat cultures negative and BP remains stable will D/C
   antibiotics.
   ICU Care
   Nutrition: tube feeds
   NovaSource Renal (Full) - [**2178-8-30**] 06:03 AM 30 mL/hour
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2178-8-28**] 03:30 AM
   Multi Lumen - [**2178-8-28**] 10:26 AM
   Arterial Line - [**2178-8-28**] 05:17 PM
   PICC Line - [**2178-8-29**] 02:00 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU, to floor later today if BP stable off pressors for
   the morning
   Total time spent: 30 min
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed her hospital course and
   was present for the key portions of the services provided.  I have
   reviewed Dr [**Last Name (STitle) **]
s note above and agree with her findings and plan of
   care.  The patient has improved very considerably from MICU admission
   and is now oriented and quite alert and interactive.  Her creatinine is
   still 5 but decreasing.  She
s hemodynamically stable off pressors, and
   without leukocytosis on Vanco and Cefepime.  She remains on lactulose
   and soon will be restarted on Nadolol.  All in all she is stable for
   transfer to the floor and has been called out.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2178-8-30**] 19:39 ------